US08912188B2
The solution of methyl 5-amino-2-methoxy-4-(4-methoxybenzylamino)benzoate (30 g, 94.83 mmol) in diethyl oxalate (100 mL) was stirred for 3 h at reflux and then cooled with a water/ice bath and diluted with ether (500 mL). The product was collected by filtration to afford methyl 7-methoxy-1-[(4-methoxyphenyl)methyl]-2,3-dioxo-1,2,3,4-tetrahydroquinoxaline-6-carboxylate as a light yellow solid (25.0 g, 71%).

reactant | methyl 5-amino-2-methoxy-4-(4-methoxybenzylamino)benzoate | 94.83 mmol, 30 g | NC=1C(=CC(=C(C(=O)OC)C1)OC)NCC1=CC=C(C=C1)OC | C17H20N2O4
reactant | diethyl oxalate | 100 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | ether | 500 mL | CCOCC | C4H10O
product | methyl 7-methoxy-1-[(4-methoxyphenyl)methyl]-2,3-dioxo-1,2,3,4-tetrahydroquinoxaline-6-carboxylate | 25.0 g, 71% | COC1=C(C=C2NC(C(N(C2=C1)CC1=CC=C(C=C1)OC)=O)=O)C(=O)OC | C19H18N2O6
